US07883713B2
(2′-Fluoro[1,1′-biphenyl]4-yl)acetic acid
26.5 g (0.11 mol) of methyl (2′-fluoro[1,1′-biphenyl]4-yl)acetate are introduced into 50 ml of ethanol and, at room temperature, a solution of 12.8 g (0.19 mol) of potassium hydroxide pellets in 25 ml of water is added. The mixture is then heated under reflux for 4 h. After cooling, the crude mixture is concentrated in vacuo, and the residue is dissolved in 100 ml of water and acidified with concentrated hydrochloric acid. The precipitate is filtered off and washed several times with water, and the solid is dried. Example VI is obtained in the form of white crystals.

reactant | methyl (2′-fluoro[1,1′-biphenyl]4-yl)acetate | 0.11 mol, 26.5 g | FC1=C(C=CC=C1)C1=CC=C(C=C1)CC(=O)OC | C15H13FO2
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | potassium hydroxide | 0.19 mol, 12.8 g | [OH-].[K+]
solvent | water | 25 ml | O | H2O
product | (2′-Fluoro[1,1′-biphenyl]4-yl)acetic acid | FC1=C(C=CC=C1)C1=CC=C(C=C1)CC(=O)O | C14H11FO2
